US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(3-trifluoromethoxy-phenyl)-methanone was prepared from phenanthridine, 3-(trifluoromethoxy)benzoyl chloride, and indole according to GP 2. Yield, 16%. 1H-NMR (DMSO-d6): δ=6.22 (d, J=2.0 Hz, 1H), 6.37 (s, br., 1H), 6.83 (t, J=7.5 Hz, 1H), 6.99-7.32 (m, 7H), 7.35-7.48 (m, 3H), 7.51-7.59 (m, 2H), 7.85 (“d”, J≈7 Hz, 1H), 7.98 (dd, J=7.8 Hz, J=1.0 Hz, 1H), 8.12 (d, J=7.6 Hz, 1H), 10.72 (s, 1H); (+)-ESI-MS: m/z=485 [M+H]+, 368 [M-indole+H]+; (−)-ESI-MS: m/z=483 (M−H)−.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 3-(trifluoromethoxy)benzoyl chloride | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(3-trifluoromethoxy-phenyl)-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C1=CC(=CC=C1)OC(F)(F)F | C29H19F3N2O2
